US05602277
To a solution of 1:1 water and tert-butanol (10 mL), AD-mix-β (Aldrich, 1.4 g) was added and the mixture stirred for 0.1 h. The mixture had two layers; the lower layer was yellow in color. To this mixture, ethyl-4-acetylamino-3-allylbenzoate (9.092 g, 0.00037 mol) was added in one portion and stirred at room temperature for 48 h. The reaction mixture was cooled to 0° C. and sodium sulphite (1.5 g, 0.0119 mol) was added. The reaction was stirred at 0° C. for 0.3 h and then at room temperature for 0.5 h. It was extracted with ethyl acetate (3×15 mL), the combined organic layers were dried over sodium sulphate, filtered, and concentrated. The residue was passed through a column of silica gel eluting first with 1:1 ethyl acetate:hexane to recover the starting material, and then with pure ethyl acetate to give 0.068 g (65%) of ethyl-4-acetylamino-3-(2',3'-dihydroxypropyl)benzoate (isomer B) as a white powder, mp 116°-117° C. The optical rotation of this solid was 0° C. at 589 nm.

reactant | water | O | H2O
reactant | AD-mix-β | 1.4 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | ethyl-4-acetylamino-3-allylbenzoate | 0.00037 mol, 9.092 g | C(C)OC(C1=CC(=C(C=C1)NC(C)=O)CC=C)=O | C14H17NO3
reactant | sodium sulphite | 0.0119 mol, 1.5 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
product | ethyl-4-acetylamino-3-(2',3'-dihydroxypropyl)benzoate | 0.068 g, 65% | C(C)OC(C1=CC(=C(C=C1)NC(C)=O)CC(CO)O)=O | C14H19NO5
